### PR TITLE
[Merged by Bors] - feat(Probability): Add `condLExp`, conditional expectation with the Lebesgue integral

### PR DESCRIPTION
**Pull request by DavidLedvinka**
Add definition of `condLExp`, conditional expectation using the Lebesgue integral. Also add basic API.

### CODE REVIEW

**Comment by leanprover-radar** [comment]
Benchmarking eef032cc04850dd5b2856f70ff7b9d0de8028107 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/eef032cc04850dd5b2856f70ff7b9d0de8028107)) against 5e9b6b99958600cdac9cce4f5ff850c23349a5fd ([status](https://radar.lean-lang.org/repos/mathlib4/commits/5e9b6b99958600cdac9cce4f5ff850c23349a5fd)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 1]
```diff
@@ -169,6 +169,19 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
     @SeparatesPoints _ m' := @SeparatesPoints.mk _ m' fun _ _ hxy ↦
     @SeparatesPoints.separates _ m hsep _ _ fun _ hs ↦ hxy _ (h _ hs)
 
+theorem measurable_bot_eq_const {β : Type*} [MeasurableSpace β] [Nonempty β]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: `β` is already available. I think `eq_const_of_measurable_bot` better fits naming convention.
```suggestion
theorem measurable_bot_eq_const [MeasurableSpace β] [Nonempty β]
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 2]
```diff
@@ -169,6 +169,19 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
...
+    ∃ c, f = fun _ ↦ c := by
+  have h (a₁ : α) (a₂ : α) : f a₁ = f a₂ := by
+    by_contra! h
+    obtain ⟨s, hs, hx, hy⟩ := exists_measurableSet_of_ne h
+    obtain h' | h' := MeasurableSpace.measurableSet_bot_iff.mp (hf hs)
+    · absurd hx; simp [← mem_preimage, h']
+    · absurd hy; simp [← mem_preimage, h']
+  by_cases! h' : Nonempty α; swap
+  · use (Classical.ofNonempty : β), funext (by simp)
+  use f (Classical.ofNonempty : α), funext (fun x ↦ h _ _)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: I think it's better not to use semicolons here. Also you can avoid `swap` by doing the following (or doing ` by_cases! h' : IsEmpty α` instead, or just not using `swap` because both proofs are one-liners):
```suggestion
    · absurd hx
      simp [← mem_preimage, h']
    · absurd hy
      simp [← mem_preimage, h']
  obtain h' | h' := isEmpty_or_nonempty α
  · use (Classical.ofNonempty : β), funext (by simp)
  · use f (Classical.ofNonempty : α), funext (fun x ↦ h _ _)
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 3]
```diff
@@ -0,0 +1,247 @@
+/-
+Copyright (c) 2025 David Ledvinka. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: David Ledvinka
+-/
+module
+
+public import Mathlib.MeasureTheory.Measure.Decomposition.RadonNikodym
+public import Mathlib.Topology.Separation.CompletelyRegular
+public import Mathlib.Probability.Notation
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Can you merge master and run shake to see what it suggests on imports? I suspect those `public import`s can be reduced.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 4]
```diff
@@ -0,0 +1,247 @@
...
+
+/-! # Conditional Lebesgue Expectation
+
+We define the conditional expectation of a `ℝ≥0∞`-valued function using the Lebesgue integral.
+Given a measure `P : Measure[mΩ₀] Ω` and a sub-σ-algebra `mΩ` of `mΩ₀` (meaning `hm : mΩ ≤ mΩ₀`)
+and a function `X : Ω → ℝ≥0∞`, if `P.trim hm` is σ-finite, then the conditional (lebesgue)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Please change this throughout the file.
```suggestion
and a function `X : Ω → ℝ≥0∞`, if `P.trim hm` is σ-finite, then the conditional (Lebesgue)
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
...
+probability measure). When both these hold, in some sense the "user definition" of `P⁻[X|mΩ]`
+should be considered "the" measurable function which satisfies `setLIntegral_condLExp`
+(which is proven unique up to `P`-ae measurable equality in `eq_condLExp`). The actual definition
+is just used to show existence. However for (potential) convenience the actual definition assigns
+`P⁻[X|mΩ] := X` in the case when `X` is `mΩ`-measurable (which can be invoked using
+`condLExp_eq_self`).
+
+## Main Statements
+
+* `condLExp (mΩ : MeasurableSpace Ω) (P : Measure[mΩ₀] Ω) (X : Ω → ℝ≥0∞) : Ω → ℝ≥0∞`: conditional
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: This is rather a definition. Also we usually don't write the types of the arguments in this part of the docstring. And can you put the "Design decisions" after this section please?

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 6]
```diff
@@ -0,0 +1,247 @@
...
+`P⁻[X|mΩ]` is assigned the junk value `0` when either `¬ mΩ ≤ mΩ₀` (`mΩ` is not a sub-σ-algebra)
+or `h : mΩ ≤ mΩ₀` but `¬ SigmaFinite (P.trim hm)` (the latter always holds when `P` is a
+probability measure). When both these hold, in some sense the "user definition" of `P⁻[X|mΩ]`
+should be considered "the" measurable function which satisfies `setLIntegral_condLExp`
+(which is proven unique up to `P`-ae measurable equality in `eq_condLExp`). The actual definition
+is just used to show existence. However for (potential) convenience the actual definition assigns
+`P⁻[X|mΩ] := X` in the case when `X` is `mΩ`-measurable (which can be invoked using
+`condLExp_eq_self`).
+
+## Main Statements
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
## Main statements
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 7]
```diff
@@ -0,0 +1,247 @@
...
+/-! # Conditional Lebesgue Expectation
+
+We define the conditional expectation of a `ℝ≥0∞`-valued function using the Lebesgue integral.
+Given a measure `P : Measure[mΩ₀] Ω` and a sub-σ-algebra `mΩ` of `mΩ₀` (meaning `hm : mΩ ≤ mΩ₀`)
+and a function `X : Ω → ℝ≥0∞`, if `P.trim hm` is σ-finite, then the conditional (lebesgue)
+expectation of `X` is the `mΩ`-measurable function such that for all `mΩ`-measurable sets `s`,
+`∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P` (see `setLIntegral_condLExp`). This is unique up to
+`P`-ae equality (see `eq_condLExp`).
+
+## Design Decisions
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
## Design decisions
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 8]
```diff
@@ -0,0 +1,247 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: David Ledvinka
+-/
+module
+
+public import Mathlib.MeasureTheory.Measure.Decomposition.RadonNikodym
+public import Mathlib.Topology.Separation.CompletelyRegular
+public import Mathlib.Probability.Notation
+
+/-! # Conditional Lebesgue Expectation
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
/-! # Conditional Lebesgue expectation
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 9]
```diff
@@ -0,0 +1,247 @@
...
+
+It is defined as `0` if either `¬ mΩ ≤ mΩ₀` or `hm : mΩ ≤ mΩ₀` but `¬ SigmaFinite (P.trim hm)`.
+
+One should typically not use the definition directly.
+-/
+noncomputable irreducible_def condLExp (mΩ : MeasurableSpace Ω) (P : Measure[mΩ₀] Ω)
+    (X : Ω → ℝ≥0∞) : Ω → ℝ≥0∞ :=
+  if hm : mΩ ≤ mΩ₀ then
+    if _ : SigmaFinite (P.trim hm) then
+      if _ : Measurable[mΩ] X then X else
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
    if SigmaFinite (P.trim hm) then
      if Measurable[mΩ] X then X else
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 10]
```diff
@@ -0,0 +1,247 @@
...
+    (hX : Measurable[mΩ] X) : P⁻[X|mΩ] = X := by
+  simp [condLExp, hm, hσ, hX]
+
+theorem condLExp_of_not_sub_sigma_measurable (hm : mΩ ≤ mΩ₀) (P : Measure[mΩ₀] Ω)
+    [hσ : SigmaFinite (P.trim hm)] {X : Ω → ℝ≥0∞} (hX : ¬Measurable[mΩ] X) :
+    P⁻[X|mΩ] = ∂((P.withDensity X).trim hm)/∂(P.trim hm) := by
+  simp [condLExp, hm, hσ, hX]
+
+@[fun_prop]
+theorem measurable_condLExp (mΩ : MeasurableSpace Ω) (P : Measure[mΩ₀] Ω) (X : Ω → ℝ≥0∞) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:112]: I think it can also be useful to have measurability with respect to `mΩ` too, can you add it please?

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 11]
```diff
@@ -0,0 +1,247 @@
...
+theorem setLIntegral_condLExp_trim (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
+    (X : Ω → ℝ≥0∞) {s : Set Ω} (hs : MeasurableSet[mΩ] s) :
+    ∫⁻ ω in s, P⁻[X|mΩ] ω ∂P.trim hm = ∫⁻ ω in s, X ω ∂P := by
+  rw [setLIntegral_trim hm (measurable_condLExp _ _ _) hs, setLIntegral_condLExp _ _ _ hs]
+
+theorem lintegral_condLExp (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)] (X : Ω → ℝ≥0∞) :
+    ∫⁻ ω, P⁻[X|mΩ] ω ∂P = ∫⁻ ω, X ω ∂P := by
+  simpa [← setLIntegral_univ] using setLIntegral_condLExp _ _ _ .univ
+
+theorem eq_condLExp_ae₀ (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
theorem ae_eq_condLExp₀ (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 12]
```diff
@@ -0,0 +1,247 @@
...
+    (X : Ω → ℝ≥0∞) (hY : AEMeasurable[mΩ] Y (P.trim hm))
+    (hXY : ∀ s, MeasurableSet[mΩ] s → ∫⁻ ω in s, Y ω ∂P = ∫⁻ ω in s, X ω ∂P) :
+    Y =ᵐ[P] P⁻[X|mΩ] := by
+  apply ae_eq_of_ae_eq_trim
+  apply ae_eq_of_forall_setLIntegral_eq_of_sigmaFinite₀ (μ := P.trim hm) hY (by fun_prop)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
  apply ae_eq_of_forall_setLIntegral_eq_of_sigmaFinite₀ hY (by fun_prop)
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 11 above)
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: `P` does not have to be explicit here.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 13]
```diff
@@ -0,0 +1,247 @@
...
+  intro s hs _
+  rw [setLIntegral_trim_ae hm hY hs, setLIntegral_condLExp_trim _ _ _ hs]
+  exact hXY s hs
+
+/- The conditional (lebesgue) expectation `P⁻[X|mΩ]` is defined uniquely as an `mΩ`-measurable
+function up to `P`-ae equality by its lintegral over all `mΩ`-measurable sets. -/
+theorem eq_condLExp_ae (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
theorem ae_eq_condLExp (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 14]
```diff
@@ -0,0 +1,247 @@
...
+    (hXY : ∀ s, MeasurableSet[mΩ] s → ∫⁻ ω in s, Y ω ∂P = ∫⁻ ω in s, X ω ∂P) :
+    Y =ᵐ[P] P⁻[X|mΩ] := by
+  apply ae_eq_of_ae_eq_trim
+  apply ae_eq_of_forall_setLIntegral_eq_of_sigmaFinite₀ (μ := P.trim hm) hY (by fun_prop)
+  intro s hs _
+  rw [setLIntegral_trim_ae hm hY hs, setLIntegral_condLExp_trim _ _ _ hs]
+  exact hXY s hs
+
+/- The conditional (lebesgue) expectation `P⁻[X|mΩ]` is defined uniquely as an `mΩ`-measurable
+function up to `P`-ae equality by its lintegral over all `mΩ`-measurable sets. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: I think you should just say `integral` or `Lebesgue integral` here (or put `lintegral` inside backticks but I like this option less).

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 15]
```diff
@@ -0,0 +1,247 @@
...
+
+@[gcongr]
+theorem condLExp_congr_ae (P : Measure[mΩ₀] Ω)
+    {X Y : Ω → ℝ≥0∞} (hXY : X =ᵐ[P] Y) : P⁻[X|mΩ] =ᵐ[P] P⁻[Y|mΩ] := by
+  by_cases hm : mΩ ≤ mΩ₀
+  · by_cases hσ : SigmaFinite (P.trim hm)
+    · refine eq_condLExp_ae _ _ _ (measurable_condLExp _ _ _) (fun s hs ↦ ?_)
+      repeat rw [setLIntegral_condLExp _ _ _ hs]
+      apply setLIntegral_congr_fun_ae (hm s hs)
+      filter_upwards [hXY] using (fun _ h _ ↦ h)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
      filter_upwards [hXY] with _ h _ using h
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 16]
```diff
@@ -0,0 +1,247 @@
...
+theorem condLExp_const (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)] (c : ℝ≥0∞) :
+    P⁻[fun _ : Ω ↦ c|mΩ] = fun _ ↦ c := condLExp_eq_self _ _ (measurable_const)
+
+@[gcongr]
+theorem condLExp_congr_ae (P : Measure[mΩ₀] Ω)
+    {X Y : Ω → ℝ≥0∞} (hXY : X =ᵐ[P] Y) : P⁻[X|mΩ] =ᵐ[P] P⁻[Y|mΩ] := by
+  by_cases hm : mΩ ≤ mΩ₀
+  · by_cases hσ : SigmaFinite (P.trim hm)
+    · refine eq_condLExp_ae _ _ _ (measurable_condLExp _ _ _) (fun s hs ↦ ?_)
+      repeat rw [setLIntegral_condLExp _ _ _ hs]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
     rw [setLIntegral_condLExp _ _ _ hs]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 17]
```diff
@@ -0,0 +1,247 @@
...
+  ext _
+  rw [← lintegral_condLExp bot_le]
+  simp [h_eq, mul_comm, mul_assoc, ENNReal.mul_inv_cancel
+    (NeZero.ne (P .univ)) (measure_ne_top _ _)]
+
+theorem condLExp_bot_ae_eq (P : Measure[mΩ₀] Ω) (X : Ω → ℝ≥0∞) :
+    P⁻[X|⊥] =ᵐ[P] fun _ => (P .univ)⁻¹ • ∫⁻ ω, X ω ∂P := by
+  rcases eq_zero_or_neZero P with rfl | hP
+  · rw [ae_zero]; exact Filter.eventually_bot
+  exact Filter.Eventually.of_forall <| congr_fun (condLExp_bot' P X)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: `ae_of_all` is shorter.
```suggestion
  exact ae_of_all P <| congr_fun (condLExp_bot' P X)
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 18]
```diff
@@ -0,0 +1,247 @@
...
+    simp [condLExp_of_not_sigmaFinite hm hσ]
+  simp [condLExp_of_not_le hm]
+
+@[gcongr]
+theorem condLExp_congr_ae_trim (P : Measure[mΩ₀] Ω) {X Y : Ω → ℝ≥0∞} (hXY : X =ᵐ[P] Y) :
+    P⁻[X|mΩ] =ᵐ[P.trim hm] P⁻[Y|mΩ] := by
+  apply ae_eq_trim_of_measurable hm (measurable_condLExp _ _ X) (measurable_condLExp _ _ Y)
+  exact condLExp_congr_ae P hXY
+
+theorem condLExp_bot' (P : Measure[mΩ₀] Ω) [NeZero P] (X : Ω → ℝ≥0∞) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:191]: I think you can make this one `private` as it is superseeded by the one below.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 19]
```diff
@@ -0,0 +1,247 @@
...
+    P⁻[X|mΩ] + P⁻[Y|mΩ] ≤ᵐ[P] P⁻[X + Y|mΩ] := by
+  by_cases hm : mΩ ≤ mΩ₀; swap
+  · simp_rw [condLExp_of_not_le hm]; filter_upwards; simp
+  by_cases hσ : SigmaFinite (P.trim hm); swap
+  · simp_rw [condLExp_of_not_sigmaFinite hm hσ]; filter_upwards; simp
+  apply ae_le_of_ae_le_trim
+  apply ae_le_of_forall_setLIntegral_le_of_sigmaFinite (μ := P.trim hm) (by fun_prop)
+  intro s hs _
+  simp only [Pi.add_apply]
+  rw [lintegral_add_left (by measurability)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: `fun_prop` is faster than `measurability`.
```suggestion
  rw [lintegral_add_left (by fun_prop)]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 20]
```diff
@@ -0,0 +1,247 @@
...
+  refine (eq_condLExp_ae _ _ _ (by fun_prop) ?_).symm
+  intro s hs
+  simp only [Pi.add_apply]
+  rw [lintegral_add_left (by measurability)]
+  repeat rw [setLIntegral_condLExp hm _ _ hs]
+  rw [lintegral_add_left' (by fun_prop)]
+
+theorem condLExp_add_right (X Y : Ω → ℝ≥0∞) (hY : AEMeasurable[mΩ₀] Y P) :
+    P⁻[X + Y|mΩ] =ᵐ[P] P⁻[X|mΩ] + P⁻[Y|mΩ] := by
+  rw [add_comm, add_comm P⁻[X|mΩ]]; exact condLExp_add_left Y X hY
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
  rw [add_comm, add_comm P⁻[X|mΩ]]
  exact condLExp_add_left Y X hY
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 21]
```diff
@@ -0,0 +1,247 @@
...
+  apply ae_le_of_ae_le_trim
+  apply ae_le_of_forall_setLIntegral_le_of_sigmaFinite (μ := P.trim hm) (by fun_prop)
+  intro s hs _
+  simp only [Pi.add_apply]
+  rw [lintegral_add_left (by measurability)]
+  repeat rw [setLIntegral_condLExp_trim hm _ _ hs]
+  grw [le_lintegral_add]
+  simp
+
+theorem condLExp_add_left (X Y : Ω → ℝ≥0∞) (hX : AEMeasurable[mΩ₀] X P) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: `X` can be implicit here, same for `Y` below.

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
I didn't check but I suspect that many declarations (if not all) have an equivalent version for `condExp`. For those declarations, did you use the same name that the ones about.`condExp` (adding a few "l"s here and there of course)? If not can you please do so?
Can you add a lemma for scalar multiplication please? A TODO for the pullout property would be nice too I think.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 5 above)
Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: This was modeled after `Mathlib.MeasureTheory.Function.ConditionalExpectation` (which does include the types of the arguments) except I changed "results" to "statements" precisely because it includes both definitions and theorems. I could change the name of the section if you have a better title but in my opinion these should be included together since as I explain in this case the theorems are morally the definition. 

This is also why I put the design decisions section before the statements, in order to explain this, but I will put them after.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Well to me a "statement" is something you assert, so a definition does not really fit there. English is not my first language so I may be wrong, but what I am sure of is that lots of files in mathlib have a section "Main definitions" and another section "Main statements", and this is also described in the contribution guidelines [here](https://leanprover-community.github.io/contribute/doc.html#header-comment).

Regarding the types, I don't remember seeing them in other docstrings (expect the one you mentioned of course). I personally think that they take a lot of space and damage readability, and I am not sure they make the doc clearer.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 18 above)
Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:191]: The one immediately below is almost everywhere equality (rather than equality) and the one after that is specialised to probability measures.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:191]: Oh sorry.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 5 above)
Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Ok, as an example it seems the (Bochner Integral) Convolution `Mathlib.Analysis.Convolution` file puts theorems that are "part of" the definition in Main Definitions. So would you be ok if I call this section Main Definition with the two theorems below included?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Yes I am ok with that. Also note that in the guidelines I linked the design decisions (which are called "Implementation notes" there) should go after the notation.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 3 above)
Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Is there documentation for what you suggest I do with shake? I couldn't seem to figure it out myself and caused a bunch of problems I had to undo instead. Evidently deleting the second import caused no problems so min_imports (which is what I used to get this list) seems to be insufficient. 

Regardless I think it has to be minimised now since I use something directly from both files (and neither imports the other).

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: I actually never used `shake` before. I thought it would nicely deal with `import`s which should be `public` and those who shouldn't, but I was wrong, sorry for the trouble. This combination will minimize `public import`s, and it is my understanding that they are the ones we should care about minimizing, even if that means having more nonpublic `imports`:
```lean
public import Mathlib.MeasureTheory.Measure.Decomposition.Lebesgue

import Mathlib.MeasureTheory.Measure.Decomposition.RadonNikodym
import Mathlib.Probability.Notation
```

Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: So how did you find this combination for future reference?

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: I removed all `public import`s and looked at what declarations caused the build to fail, and added the corresponding file as a public import. Ultimately [MeasureTheory.Measure.rnDeriv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Decomposition/Lebesgue.html#MeasureTheory.Measure.rnDeriv) got me to import `Mathlib.MeasureTheory.Measure.Decomposition.Lebesgue` which did the trick (actually if I had thought a bit more before starting I would probably have started with this one lol). But this is not very practical which is why I hoped that the new `shake` would help.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 22]
```diff
@@ -0,0 +1,295 @@
...
+import Mathlib.Probability.Notation
+
+/-! # Conditional Lebesgue expectation
+
+We define the conditional expectation of a `ℝ≥0∞`-valued function using the Lebesgue integral.
+Given a measure `P : Measure[mΩ₀] Ω` and a sub-σ-algebra `mΩ` of `mΩ₀` (meaning `hm : mΩ ≤ mΩ₀`)
+and a function `X : Ω → ℝ≥0∞`, if `P.trim hm` is σ-finite, then the conditional (Lebesgue)
+expectation `P⁻[X|mΩ]` of `X` is the `mΩ`-measurable function such that for all
+`mΩ`-measurable sets `s`, `∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P`
+(see `setLIntegral_condLExp`). This is unique up to `P`-ae equality (see `eq_condLExp`).
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
(see `setLIntegral_condLExp`). This is unique up to `P`-ae equality (see `ae_eq_condLExp`).
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 23]
```diff
@@ -0,0 +1,295 @@
...
+
+## Main definitions
+
+* `condLExp` : conditional (Lebesgue) expectation of `X` with respect to `mΩ`.
+* `setLIntegral_condLExp`: For any `mΩ`-measurable set `s`,
+  `∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P`.
+* `eq_condLExp` : the conditional (Lebesgue) expectation is characterized by its (Lebesgue)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
* `ae_eq_condLExp` : the conditional (Lebesgue) expectation is characterized by its (Lebesgue)
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 24]
```diff
@@ -0,0 +1,295 @@
...
+  integral on `mΩ` sets up to `P`-ae equality.
+
+## Design decisions
+
+`P⁻[X|mΩ]` is assigned the junk value `0` when either `¬ mΩ ≤ mΩ₀` (`mΩ` is not a sub-σ-algebra)
+or `h : mΩ ≤ mΩ₀` but `¬ SigmaFinite (P.trim hm)` (the latter always holds when `P` is a
+probability measure). When both these hold, in some sense the "user definition" of `P⁻[X|mΩ]`
+should be considered "the" measurable function which satisfies `setLIntegral_condLExp`
+(which is proven unique up to `P`-ae measurable equality in `eq_condLExp`). The actual definition
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
(which is proven unique up to `P`-ae measurable equality in `ae_eq_condLExp`). The actual definition
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 25]
```diff
@@ -0,0 +1,295 @@
...
+* `P⁻[X|mΩ] = condLExp mΩ P X`
+
+## To do
+
+* Prove the pullout property
+* Prove a dominated convergence theorem.
+
+-/
+
+@[expose] public section
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: Since the only definition is irreducible (and thus not meant to be unfolded) I think you can remove the `expose` attribute.
```suggestion
public section
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 26]
```diff
@@ -0,0 +1,295 @@
...
+theorem condLExp_eq_self (hm : mΩ ≤ mΩ₀) (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
+    (hX : Measurable[mΩ] X) : P⁻[X|mΩ] = X := by
+  simp [condLExp, hm, hσ, hX]
+
+theorem condLExp_of_not_sub_sigma_measurable (hm : mΩ ≤ mΩ₀) (P : Measure[mΩ₀] Ω)
+    [hσ : SigmaFinite (P.trim hm)] {X : Ω → ℝ≥0∞} (hX : ¬Measurable[mΩ] X) :
+    P⁻[X|mΩ] = ∂((P.withDensity X).trim hm)/∂(P.trim hm) := by
+  simp [condLExp, hm, hσ, hX]
+
+@[fun_prop]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:111]:
```suggestion
@[fun_prop, measurability]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 27]
```diff
@@ -0,0 +1,295 @@
...
+    Measurable[mΩ] P⁻[X|mΩ] := by
+  by_cases hm : mΩ ≤ mΩ₀
+  · by_cases hσ : SigmaFinite (P.trim hm)
+    · by_cases hX : Measurable[mΩ] X
+      · simp [condLExp_eq_self hm, hX]
+      simp [condLExp_of_not_sub_sigma_measurable hm _ hX, measurable_rnDeriv]
+    simp [condLExp_of_not_sigmaFinite hm hσ, measurable_zero]
+  simp [condLExp_of_not_le hm, measurable_zero]
+
+@[fun_prop]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:122]:
```suggestion
@[fun_prop, measurability]
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 28]
```diff
@@ -0,0 +1,295 @@
...
+theorem measurable_condLExp₀ (mΩ : MeasurableSpace Ω) (P : Measure[mΩ₀] Ω) (X : Ω → ℝ≥0∞) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: I don't think the `₀` really makes sense here, it is rather use to indicate an aemeasurable version of some statement. I think it's better to use `'`.
```suggestion
theorem measurable_condLExp' (mΩ : MeasurableSpace Ω) (P : Measure[mΩ₀] Ω) (X : Ω → ℝ≥0∞) :
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 29]
```diff
@@ -0,0 +1,295 @@
...
+
+## Main definitions
+
+* `condLExp` : conditional (Lebesgue) expectation of `X` with respect to `mΩ`.
+* `setLIntegral_condLExp`: For any `mΩ`-measurable set `s`,
+  `∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P`.
+* `eq_condLExp` : the conditional (Lebesgue) expectation is characterized by its (Lebesgue)
+  integral on `mΩ` sets up to `P`-ae equality.
+
+## Design decisions
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:35]: Can you put this after the notation section, as indicated [here](https://leanprover-community.github.io/contribute/doc.html#header-comment)?

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 30]
```diff
@@ -0,0 +1,295 @@
...
+theorem ae_eq_condLExp (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)]
+    (X : Ω → ℝ≥0∞) (hY : Measurable[mΩ] Y)
+    (hXY : ∀ s, MeasurableSet[mΩ] s → ∫⁻ ω in s, Y ω ∂P = ∫⁻ ω in s, X ω ∂P) :
+    Y =ᵐ[P] P⁻[X|mΩ] := ae_eq_condLExp₀ _ _ hY.aemeasurable hXY
+
+theorem condLExp_const (P : Measure[mΩ₀] Ω) [hσ : SigmaFinite (P.trim hm)] (c : ℝ≥0∞) :
+    P⁻[fun _ : Ω ↦ c|mΩ] = fun _ ↦ c := condLExp_eq_self _ _ (measurable_const)
+
+@[gcongr]
+theorem condLExp_congr_ae (P : Measure[mΩ₀] Ω)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]: In this theorem and the one below you can make `P` implicit.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 31]
```diff
@@ -0,0 +1,295 @@
...
+  by_cases hσ : SigmaFinite (P.trim hm)
+  swap; · simp [condLExp_of_not_sigmaFinite hm hσ]
+  refine (ae_eq_condLExp _ _ _ (by fun_prop) ?_).symm
+  intro s hs
+  simp only [Pi.smul_apply, smul_eq_mul]
+  rw [lintegral_const_mul, lintegral_const_mul'', setLIntegral_condLExp _ _ _ hs]
+  all_goals fun_prop
+
+theorem condLExp_smul_le (X : Ω → ℝ≥0∞) {c : ℝ≥0∞} :
+     c • P⁻[X|mΩ] ≤ᵐ[P] P⁻[c • X|mΩ] := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
    c • P⁻[X|mΩ] ≤ᵐ[P] P⁻[c • X|mΩ] := by
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 32]
```diff
@@ -169,6 +169,21 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
     @SeparatesPoints _ m' := @SeparatesPoints.mk _ m' fun _ _ hxy ↦
     @SeparatesPoints.separates _ m hsep _ _ fun _ hs ↦ hxy _ (h _ hs)
 
+theorem eq_const_of_measurable_bot [MeasurableSpace β] [Nonempty β]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: This shouldn't be in the `MeasurableSpace` namespace.
```suggestion
theorem _root_.eq_const_of_measurable_bot [MeasurableSpace β] [Nonempty β]
```

File: Mathlib/MeasureTheory/MeasurableSpace/Defs.lean [hunk 33]
```diff
@@ -525,6 +525,7 @@ protected theorem Measurable.comp' {_ : MeasurableSpace α} {_ : MeasurableSpace
 theorem measurable_const {_ : MeasurableSpace α} {_ : MeasurableSpace β} {a : α} :
     Measurable fun _ : β => a := fun s _ => .const (a ∈ s)
 
+@[fun_prop]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Defs.lean:528]:
```suggestion
@[fun_prop, measurability]
```

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean [hunk 34]
```diff
@@ -292,6 +292,7 @@ theorem aemeasurable_map_equiv_iff (e : α ≃ᵐ β) {f : β → γ} :
 
 end
 
+@[fun_prop]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/AEMeasurable.lean:295]:
```suggestion
@[fun_prop, measurability]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks! Just a few details.

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean (hunk 26 above)
Comment (DavidLedvinka) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:111]: I believe going forward from #30511 we are supposed to just use `fun_prop` when applicable.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean:111]: Oh my bad, thanks!

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 35]
```diff
@@ -169,6 +169,21 @@ theorem SeparatesPoints.mono {m m' : MeasurableSpace α} [hsep : @SeparatesPoint
     @SeparatesPoints _ m' := @SeparatesPoints.mk _ m' fun _ _ hxy ↦
     @SeparatesPoints.separates _ m hsep _ _ fun _ hs ↦ hxy _ (h _ hs)
 
+theorem _root_.eq_const_of_measurable_bot [MeasurableSpace β] [Nonempty β]
+    [hs : SeparatesPoints β] {f : α → β} (hf : Measurable[⊥] f) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]:
```suggestion
    [SeparatesPoints β] {f : α → β} (hf : Measurable[⊥] f) :
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 36]
```diff
@@ -0,0 +1,295 @@
...
+`mΩ`-measurable sets `s`, `∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P`
+(see `setLIntegral_condLExp`). This is unique up to `P`-ae equality (see `ae_eq_condLExp`).
+
+## Main definitions
+
+* `condLExp` : conditional (Lebesgue) expectation of `X` with respect to `mΩ`.
+* `setLIntegral_condLExp`: For any `mΩ`-measurable set `s`,
+  `∫⁻ ω in s, P⁻[X|mΩ] ω ∂P = ∫⁻ ω in s, X ω ∂P`.
+* `ae_eq_condLExp` : the conditional (Lebesgue) expectation is characterized by its (Lebesgue)
+  integral on `mΩ` sets up to `P`-ae equality.
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
  integral on `mΩ`-measurable sets up to `P`-ae equality.
```

File: Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean [hunk 37]
```diff
@@ -0,0 +1,295 @@
...
+
+/-- info: P⁻[X|mΩ] : Ω → ℝ≥0∞ -/
+#guard_msgs in
+#check P⁻[X|mΩ]
+/-- info: P⁻[X|mΩ] sorry : ℝ≥0∞ -/
+#guard_msgs in
+#check P⁻[X|mΩ] (sorry : Ω)
+
+theorem condLExp_of_not_le (hm_not : ¬mΩ ≤ mΩ₀) : P⁻[X|mΩ] = 0 := by
+    rw [condLExp, dif_neg hm_not]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalLExpectation.lean]:
```suggestion
  rw [condLExp, dif_neg hm_not]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate
